US08008303B2
{4′-[4-(4-Methanesulfonyl-piperazin-1-ylmethyl)-phenylcarbamoyl]-6-trifluoromethoxy-biphenyl-3-yl}-carbamic acid tert-butyl ester
A mixture of 5′-tert-butoxycarbonylamino-2′-trifluoromethoxy-biphenyl-4-carboxylic acid (50 mg), 4-(4-methanesulfonyl-piperazin-1-ylmethyl)-phenylamine (35.2 mg), HBTU (49.6 mg) and N-Methylmorpholine (30 ul) in dry DMF (3 ml) was stirred for 16 hrs.

reactant | 5′-tert-butoxycarbonylamino-2′-trifluoromethoxy-biphenyl-4-carboxylic acid | 50 mg | C(C)(C)(C)OC(=O)NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)O)OC(F)(F)F | C19H18F3NO5
reactant | 4-(4-methanesulfonyl-piperazin-1-ylmethyl)-phenylamine | 35.2 mg | CS(=O)(=O)N1CCN(CC1)CC1=CC=C(C=C1)N | C12H19N3O2S
reactant | HBTU | 49.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-Methylmorpholine | 30 ul | CN1CCOCC1 | C5H11NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | {4′-[4-(4-Methanesulfonyl-piperazin-1-ylmethyl)-phenylcarbamoyl]-6-trifluoromethoxy-biphenyl-3-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C=C(C(=CC1)OC(F)(F)F)C1=CC=C(C=C1)C(NC1=CC=C(C=C1)CN1CCN(CC1)S(=O)(=O)C)=O)=O | C31H35F3N4O6S
